US06509361B1
Preparation of 2-Chloro-4-[1-(3-Methylphenyl)-3-methyl-1H-pyrazol-5-yl]pyridine
To a mixture of 1-(2-chloroisonicotinyl)-1,3-butanedione (1.35 g, 0.068 mol) and 3-methylphenylhydrazine hydrochloride (1.30 g, 0.0082 mol) in ethanol (40 mL) was added ammonia hydroxide (0.96 mL, 0.0082 mol) dropwise. The reaction mixture was heated at reflux overnight. The solvent was removed and the residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated and the crude was purified by chromatography on silica gel (ethyl acetate/hexane, 2:8) to give 1.68 g (87% yield) of product as a yellow oil: Anal. Calcd. for C16H14ClN3: C, 67.72; H, 4.97; N, 14.81; Cl, 12.49. Found: C, 67.91; H, 5.08; N, 14.79; Cl, 12.40.

reactant | 1-(2-chloroisonicotinyl)-1,3-butanedione | 0.068 mol, 1.35 g | ClC=1C=C(CC(CC(C)=O)=O)C=CN1 | C10H10ClNO2
reactant | 3-methylphenylhydrazine hydrochloride | 0.0082 mol, 1.30 g | Cl.CC=1C=C(C=CC1)NN
reactant | ammonia hydroxide | 0.0082 mol, 0.96 mL | [OH-].N
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-Chloro-4-[1-(3-Methylphenyl)-3-methyl-1H-pyrazol-5-yl]pyridine | 1.68 g, 87% yield | ClC1=NC=CC(=C1)C1=CC(=NN1C1=CC(=CC=C1)C)C | C16H14ClN3
